US07417169B2
[4′-(2-Hydroxyethoxy)-2′,6′-dimethylbiphenyl-4-yl]acetic acid
A 2 mol/L aqueous solution of sodium hydroxide (2 mL) was added to a solution of methyl[4′-(2-acetoxyethoxy)-2′,6′-dimethylbiphenyl-4-yl]acetate (0.318 g) in ethanol (10 mL), and the mixture was stirred at 40° C. for 1 hr. To the reaction mixture was added 2 mol/L hydrochloric acid (2 mL), and the solvent was evaporated under reduced pressure. Water and ethyl acetate were added to the residue. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to afford the title compound (0.292 g).

reactant | sodium hydroxide | 2 mL | [OH-].[Na+]
reactant | methyl[4′-(2-acetoxyethoxy)-2′,6′-dimethylbiphenyl-4-yl]acetate | 0.318 g | COC(CC1=CC=C(C=C1)C1=C(C=C(C=C1C)OCCOC(C)=O)C)=O | C21H24O5
reactant | hydrochloric acid | 2 mol/L, 2 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | [4′-(2-Hydroxyethoxy)-2′,6′-dimethylbiphenyl-4-yl]acetic acid | 0.292 g | OCCOC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)CC(=O)O)C | C18H20O4
